US05102661
60 ml of water was put in a 100 ml-Erlenmeyer flask, and 10.07 g (0.24 mol) of lithium hydroxide monohydrate and then 11.37 g (0.08 mol) of kojic acid were added thereto and dissolved with stirring. While the temperature of the resulting solution was kept at 40 to 45° C., 14.80 g (0.096 mol) of diethyl sulfate was dropwise added thereto over a period of 20 minutes. Afterwards, the whole was stirred for a further 30 minutes at the same temperature and then overnight at room temperature. The pH of the reaction mixture was adjusted to 6.0 by 1N hydrochloric acid. Water was removed from the reaction mixture using an evaporator by distillation under reduced pressure, and the remaining reddish brown viscous liquid was extracted three times each with 70 ml of a hot benzene. The resulting extract was dewatered by adding anhydrous magnesium sulfate thereto, and then filtered. Benzene was removed from the resulting filtrate using an evaporator by distillation under reduced pressure. The remaining yellowish brown viscous liquid was cooled to solidify (Crude yield: 3.67 g (27%), m.p. 68 to 70° C.). The yellowish brown solid was recrystallized three times from di-isopropyl ether using active carbons to obtain a pure white crystal of 2-ethoxymethyl-5-hydroxy-γ-pyrone.

reactant | lithium hydroxide monohydrate | 0.24 mol, 10.07 g | O.[OH-].[Li+]
reactant | kojic acid | 0.08 mol, 11.37 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | diethyl sulfate | 0.096 mol, 14.80 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 60 ml | O | H2O
product | 2-ethoxymethyl-5-hydroxy-γ-pyrone | CCOCC1=CC(=O)C(=CO1)O | C8H10O4
